US06093744
Synthesis of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(2-cyano-vinyl)-2,6-diisopropyl-phenyl ester
Diethylcyanomethyl phosphonate (1.49 mL, 9.2 mmol) was added dropwise to a suspension of sodium hydride (0.37 g, 9.2 mmol) in 20 mL tetrahydrofuran at 0° C. After 15 minutes, the reaction was cooled to -78° C. and a solution of [(2,4,6-triisopropyl-phenyl)-acetyl]-sulfamic acid 4-formyl-2,6-diisopropyl-phenyl ester (2.32 g, 4.4 mmol) in 75 mL tetrahydrofuran was added dropwise. The reaction was allowed to warm to room temperature overnight and then concentrated in vacuo and partitioned the residue between 1 M HCl and dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give an oily solid. Chromatography on silica gel (20% ethyl acetate/hexanes) gave 1.16 g of the title compound as a white solid; mp 157-160° C.

reactant | Diethylcyanomethyl phosphonate | 9.2 mmol, 1.49 mL | P(OC(C#N)(CC)CC)([O-])=O
reactant | sodium hydride | 9.2 mmol, 0.37 g | [H-].[Na+]
reactant | [(2,4,6-triisopropyl-phenyl)-acetyl]-sulfamic acid 4-formyl-2,6-diisopropyl-phenyl ester | 4.4 mmol, 2.32 g | C(=O)C1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C30H43NO5S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(2-cyano-vinyl)-2,6-diisopropyl-phenyl ester | 1.16 g | C(#N)C=CC1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C32H44N2O4S
